US07683067B2
2-Hydroxy-3-{5-[(4-methylpiperazin-1-yl)carbonyl]pyridin-2-yl}-1H-indole-6-carbonitrile hydrochloride
To a suspension of sodium hydride (97%, 0.024 g, 1.0 mmol) in N,N-dimethylformamide (1.5 mL) was added 2-oxoindoline-6-carbonitrile (0.119 g, 0.75 mmol). The resulting mixture was stirred for 5 min at room temperature and 1-[(6-chloro-1-oxidopyridin-3-yl)carbonyl]-4-methylpiperazine (0.128 g, 0.5 mmol) was added. The resulting reaction mixture was set under an N2 atmosphere and stirred for 20 h at room temperature. The N,N-dimethylformamide reaction solution was diluted with saturated aqueous sodium hydrogen carbonate and sodium chloride (2.0 g) was added followed by extractions with chloroform, ethyl acetate, and tetrahydrofuran. The combined organic extracts were dried (Na2SO4) and concentrated in vacuo. The remaining N,N-dimethylformamide was removed by co-evaporation with toluene (1×). The residual oil was dissolved in a chloroform/ethyl acetate, (5:1, 6 mL), and phosphorus trichloride (0.275 g, 2.0 mmol) was added. The reaction mixture was stirred for 60 min at 60° C., and was then cooled to room temperature. The mixture was poured into a saturated aqueous sodium hydrogen carbonate solution and sodium chloride (2.0 g) was added followed by extractions with chloroform (4×) and ethyl acetate (2×). The combined organic extracts were dried (Na2SO4) and concentrated in vacuo. Purification using preparative HPLC (XTerra®PrepMS C8 column 10 μm, 30×150 mm; 0.1 M NH4OAc buffer/acetonitrile, (80:20-20:80), as the eluent) gave 0.028 g (15% yield) of the title compound as the base. The base (0.025 g, 0.069 mmol) was dissolved in chloroform/methanol, (1:1), and treated with HCl in diethyl ether (1 M) at 0° C. The resulting yellow crystals were collected by filtration and washed with diethyl ether to obtain 0.020 g (70% yield) of the title compound: 1H NMR (DMSO-d6, 400 MHz) δ 10.61 (br s, 1H), 8.41 (s, 1H), 7.93 (br s, 1H), 7.80 (br s, 2H), 7.30 (br s, 1H), 7.15 (br s, 1H), 3.58 (br s, 4H), 2.40 (br s, 4H), 2.25 (s, 3H); MS (EI) m/z 362 (M++1).

reactant | sodium hydride | 1.0 mmol, 0.024 g | [H-].[Na+]
reactant | 2-oxoindoline-6-carbonitrile | 0.75 mmol, 0.119 g | O=C1NC2=CC(=CC=C2C1)C#N | C9H6N2O
reactant | 1-[(6-chloro-1-oxidopyridin-3-yl)carbonyl]-4-methylpiperazine | 0.5 mmol, 0.128 g | ClC1=CC=C(C=[N+]1[O-])C(=O)N1CCN(CC1)C | C11H14ClN3O2
reactant | sodium chloride | 2.0 g | [Cl-].[Na+]
reactant | phosphorus trichloride | 2.0 mmol, 0.275 g | P(Cl)(Cl)Cl | Cl3P
reactant | sodium chloride | 2.0 g | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform ethyl acetate | 6 mL | C(Cl)(Cl)Cl.C(C)(=O)OCC
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-Hydroxy-3-{5-[(4-methylpiperazin-1-yl)carbonyl]pyridin-2-yl}-1H-indole-6-carbonitrile hydrochloride | 0.028 g, 15% yield | Cl.OC=1NC2=CC(=CC=C2C1C1=NC=C(C=C1)C(=O)N1CCN(CC1)C)C#N | InChI=1S/C20H19N5O2.ClH/c1-24-6-8-25(9-7-24)20(27)14-3-5-16(22-12-14)18-15-4-2-13(11-21)10-17(15)23-19(18)26;/h2-5,10,12,23,26H,6-9H2,1H3;1H
